US05886014
N-Methyl-4-methoxy-2-nitroaniline
A procedure similar to that described in Preparation 8 was repeated, except that 2.0 g of N-t-butoxycarbonyl-N-methyl-4-methoxy-2-nitroaniline (prepared as described in Preparation 23) and 30 ml of a 4N solution of hydrogen chloride in 1,4-dioxane were used, to give 1.17 g of the title compound having an Rf value=0.62 (on thin layer chromatography on silica gel; developing solvent: a 1:5 by volume mixture of ethyl acetate and hexane).

reactant | N-t-butoxycarbonyl-N-methyl-4-methoxy-2-nitroaniline | 2.0 g | C(C)(C)(C)OC(=O)N(C1=C(C=C(C=C1)OC)[N+](=O)[O-])C | C13H18N2O5
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-Methyl-4-methoxy-2-nitroaniline | 1.17 g | CNC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C8H10N2O3
